US20010006969A1
2-Allylamino-7-isopropyl-4-methylaminothieno[3,2-d] pyrimidine
90 mg (0.37 mmol) of 2-chloro-7-isopropyl-4-methylaminothieno[ 3,2-d]pyrimidine and 340 mg (5.96 mmol) of allylamine were heated in a sealed tube at 160° C. for 16 hours. After completion of the reaction, the reaction mixture was allowed to resume room temperature, followed by adding a saturated aqueous sodium hydrogen carbonate solution thereto and extraction with ethyl acetate (50 ml×2). After the organic layer was washed with brine and dried over anhydrous sodium sulfate, the solvent was distilled off. The residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane=¼) to give 89 mg (yield: 91.1%) of the title compound.

reactant | 2-chloro-7-isopropyl-4-methylaminothieno[ 3,2-d]pyrimidine | 0.37 mmol, 90 mg | ClC=1N=C(C2=C(N1)C(=CS2)C(C)C)NC | C10H12ClN3S
reactant | allylamine | 5.96 mmol, 340 mg | C(C=C)N | C3H7N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 2-Allylamino-7-isopropyl-4-methylaminothieno[3,2-d] pyrimidine | 89 mg, yield: 91.1% | C(C=C)NC=1N=C(C2=C(N1)C(=CS2)C(C)C)NC | C13H18N4S
